US04639264
N-(2-Dimethylsulfamoylphenyl-sulfonyl)-N'-(4-methoxy-6-dimethylthiocarbamoylthiomethyl-pyrimidin-2-yl)-urea (compound No. 2.7)
A mixture of 9.3 g of N-(2-dimethylsulfamoylphenylsulfonyl)-N'-(4-chloromethyl-6-methoxy-pyrimidin-2-yl)-urea and 3.7 g of dimethyldithiocarbamic acid sodium salt dihydrate is stirred in 100 ml of acetonitrile at 20°-25° C. for 3 hours. In further processing, the reaction mixture is diluted with 1 liter of water, and the precipitated product is separated. The yield is 10.0 g (91% of theory) of N-(2-dimethylsulfamoylphenyl-sulfonyl)-N'-(4-methoxy-6-dimethylthiocarbamoylthiomethyl-pyrimidin-2-yl)-urea m.p. 181°-183° C. (decomp.).

reactant | N-(2-dimethylsulfamoylphenylsulfonyl)-N'-(4-chloromethyl-6-methoxy-pyrimidin-2-yl)-urea | 9.3 g | CN(S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)CCl)OC)C | C15H18ClN5O6S2
reactant | dimethyldithiocarbamic acid sodium salt dihydrate | 3.7 g | O.O.[Na+].CN(C([S-])=S)C
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 1 liter | O | H2O
product | N-(2-Dimethylsulfamoylphenyl-sulfonyl)-N'-(4-methoxy-6-dimethylthiocarbamoylthiomethyl-pyrimidin-2-yl)-urea | CN(S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)CSC(N(C)C)=S)C | C18H24N6O6S4
